US07618961B2
Ethyl (2-{[(5-bromo-2-methoxyphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 5-bromo-2-methoxybenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (14.4 mg) with purity >90%. LCMS (pos) m/z 437.0.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 5-bromo-2-methoxybenzenesulfonyl chloride | BrC=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C7H6BrClO3S
product | Ethyl (2-{[(5-bromo-2-methoxyphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate | BrC=1C=CC(=C(C1)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC)OC | C14H15BrN2O5S2
